US07153878B2
4-Benzyloxy-2-propylphenol
2-Allyl-4-benzyloxyphenol (WO 9728137 A1 19970807, Adams, A. D. et al.) (5.00 g, 20.8 mmol) in ethyl acetate (40 mL) is treated with 5% Pd/C (0.25 g) and hydrogen (1 atm) at ambient temperature for 18 h. The mixture is filtered and concentrated. The crude product is purified on a Biotage medium pressure chromatography system using a 40 L normal phase cartridge and eluted with 10% ethyl acetate in hexanes to give a tan solid (2.8 g, 56%). Rf=0.33 (25% EtOAc/Hexanes); 1H NMR (400 MHz, CDCl3) δ 7.44–7.31 (m, 5H), 6.78 (s, 1H), 6.69 (d, J=1.5 Hz, 2H), 5.00 (s, 2H), 4.31 (s, 1H), 2.55 (t, J=7.6 Hz, 2H), 1.64 (q, J=7.5 Hz, 2H), 0.97 (t, J=7.3 Hz, 3H).

reactant | 2-Allyl-4-benzyloxyphenol | C(C=C)C1=C(C=CC(=C1)OCC1=CC=CC=C1)O | C16H16O2
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.25 g | [Pd] | Pd
product | 4-Benzyloxy-2-propylphenol | 2.8 g, 56% | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)O)CCC | C16H18O2
